US08541407B2
A solution of 5-methyl-2-nitrobenzoyl chloride (3.77 g, 18.9 mmol) in tetrahydrofuran (25 mL) was treated with a solution consisting of 2-chloropyridin-3-amine (2.6 g, 20.22 mmol), pyridine (6 mL) and tetrahydrofuran (15 mL). The reaction mixture was stirred for 2 hours then diluted with water (150 mL) and extracted with dichloromethane (3×70 mL). The combined organic extracts were washed with saturated aqueous sodium bicarbonate (100 mL) and dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure to afford N-(2-chloropyridin-3-yl)-5-methyl-2-nitrobenzamide (5.44 g) that was used without further purification. LCMS [M+H]: 292.

reactant | 5-methyl-2-nitrobenzoyl chloride | 18.9 mmol, 3.77 g | CC=1C=CC(=C(C(=O)Cl)C1)[N+](=O)[O-] | C8H6ClNO3
reactant | 2-chloropyridin-3-amine | 20.22 mmol, 2.6 g | ClC1=NC=CC=C1N | C5H5ClN2
reactant | pyridine | 6 mL | N1=CC=CC=C1 | C5H5N
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | water | 150 mL | O | H2O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | N-(2-chloropyridin-3-yl)-5-methyl-2-nitrobenzamide | 5.44 g | ClC1=NC=CC=C1NC(C1=C(C=CC(=C1)C)[N+](=O)[O-])=O | C13H10ClN3O3
